US08012277B2
Synthesis of Diaminoguanidinium/Urea (1:2 mol % Eutectic Mixture)
Diaminoguanidinium hydrochloride (13.0 g, 103.5 mmol) and urea (12.4 g, 207.1 mmol) were placed in a flask with stirring. The flask was heated to 10° C. and stirred until a melt was formed, at which time the mixture was cooled to room temperature and the product collected as a white solid.

reactant | Diaminoguanidinium hydrochloride | 103.5 mmol, 13.0 g | Cl.N[N+](=C(N)N)N
reactant | urea | 207.1 mmol, 12.4 g | NC(=O)N | CH4N2O
product | Diaminoguanidinium Urea | N[N+](=C(N)N)N.NC(=O)N | InChI=1S/CH7N5.CH4N2O/c2-1(3)6(4)5;2-1(3)4/h4-5H2,(H3,2,3);(H4,2,3,4)/p+1
